US05397798
N-[2-(1H-Imidazol-2-yl)ethyl]-2-[[4-(1,1-dimethylethyl)-benzoyl]amino]benzamide monohydrochloride
The titled compound was prepared substantially in accordance with the method detailed in Example 11 using 18.4 g (0.0799 mol) of 2-amino-N-[2-(1H-imidazol-2-yl)-ethyl]benzamide, prepared as in Example 6A, and 32.07 g (0.1598 mol) of p-tert-butylbenzoyl chloride, with the exception that after removing methanol the resultant oil was crystallized from ethyl acetate to provide an oily solid. This solid was purified by filtration through silica gel using 7% methanol in dichloromethane. The filtrate was reduced to dryness under reduced pressure and the resultant residue was recrystallized from an ethyl acetate/methanol/diethyl ether solution containing hydrochloric acid to provide 21.9 g of the desired titled compound (m.p. 207°-211° C.).

reactant | 2-amino-N-[2-(1H-imidazol-2-yl)-ethyl]benzamide | 0.0799 mol, 18.4 g | NC1=C(C(=O)NCCC=2NC=CN2)C=CC=C1 | C12H14N4O
reactant | p-tert-butylbenzoyl chloride | 0.1598 mol, 32.07 g | C(C)(C)(C)C1=CC=C(C(=O)Cl)C=C1 | C11H13ClO
product | N-[2-(1H-Imidazol-2-yl)ethyl]-2-[[4-(1,1-dimethylethyl)-benzoyl]amino]benzamide monohydrochloride | 21.9 g | Cl.N1C(=NC=C1)CCNC(C1=C(C=CC=C1)NC(C1=CC=C(C=C1)C(C)(C)C)=O)=O | InChI=1S/C23H26N4O2.ClH/c1-23(2,3)17-10-8-16(9-11-17)21(28)27-19-7-5-4-6-18(19)22(29)26-13-12-20-24-14-15-25-20;/h4-11,14-15H,12-13H2,1-3H3,(H,24,25)(H,26,29)(H,27,28);1H
